US07153874B2
Step 6: [1-(4-Fluoro-phenyl)-2-methyl-1H-imidazol-4-yl]-methanol
4-(tert-Butyl-dimethyl-silanyloxymethyl)-1-(4-fluoro-phenyl)-2-methyl-1H-imidazole (14.7 g, 45.7 mmol) was dissolved in 200 mL THF. Tetrabutyl ammoniumfluoride (91 mL, 1M in THF, 91 mmol) was added and the reaction mixture was stirred at RT overnight. The solvent was evaporated. The residue was taken up in 200 mL water and extracted three times with ethyl acetate (200 mL each). The combined organic extracts were dried with magnesium sulfate, filtered and evaporated. The crude product was suspended in 150 mL ethyl acetate, filtered and dried. The desired compound was obtained as a white solid (7.16 g, 76%), MS: m/e=207.1 (M+H+).

reactant | 4-(tert-Butyl-dimethyl-silanyloxymethyl)-1-(4-fluoro-phenyl)-2-methyl-1H-imidazole | 45.7 mmol, 14.7 g | C(C)(C)(C)[SiH2]OC(C=1N=C(N(C1)C1=CC=C(C=C1)F)C)(C)C | C17H25FN2OSi
reactant | Tetrabutyl ammoniumfluoride | 91 mmol, 1M, 91 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | [1-(4-Fluoro-phenyl)-2-methyl-1H-imidazol-4-yl]-methanol | FC1=CC=C(C=C1)N1C(=NC(=C1)CO)C | C11H11FN2O
